US04242510
Ethyl 4-(2-hydroxyethylthio)-3-oxo-2-n-hexyloxyiminovalerate (300 g.), p-toluenesulfonic acid (42.0 g.) and toluene (2.5 l.) were treated in a similar manner to that of Example I-(ii) and refluxed under heating for 1.5 hours. The resultant solution was treated in a similar manner to that of Example I-(ii) to give ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetate (mixture of syn isomer and anti isomer, 186.8 g.).

reactant | Ethyl 4-(2-hydroxyethylthio)-3-oxo-2-n-hexyloxyiminovalerate | 300 g | OCCSC(C(C(C(=O)OCC)=NOCCCCCC)=O)C | C15H27NO5S
reactant | p-toluenesulfonic acid | 42.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 2.5 l | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-hexyloxyiminoacetate | 186.8 g | O1CCSC=C1C(C(=O)OCC)=NOCCCCCC | C14H23NO4S
